data/mechanisms/records/IMS8-EQ8.49.json
{"mechanism_id": "IMS8-EQ8.49", "species": [{"species_id": "cyclic_ether_radical_cation", "mapped_smiles": "[O+:1]1[CH2:2][CH2:3][CH2:4][CH2:5]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2]=[O+:1][CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[CH2:2]=[O:1]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_carbenium_c3h6", "mapped_smiles": "[CH2+:5][CH2:4][CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_ether_radical_cation"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["formaldehyde_neutral", "distonic_carbenium_c3h6"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_cleavage", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 178, "equation": "8.49", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Generic scheme: a cyclic heteroatom (Y) OE+. radical cation, n-ionized at Y, ring-opens by alpha-cleavage of a ring C-C bond (beta to Y) to a ring-opened distonic ion (Y=CH2 oxocarbenium head, primary carbon radical tail). Instantiated with Y=O as tetrahydrofuran (oxolane) radical cation to give a parseable structure; the book draws a generic ring with a rounded bottom and the label Y, so ring size and heteroatom are not specified. Book draws 2 arcs: a small fishhook from the Y radical (+.) into the forming Y=C pi bond (move 1) and a large fishhook from the breaking ring C-C sigma bond into that same forming pi bond (move 2); move 3 (the other electron of the C-C sigma bond onto the new radical carbon) is an implicit homolysis hook required for electron balance (not drawn on the page but the product radical dot is shown)."}, {"evidence_id": "ev_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 178, "equation": "8.49", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.6, "curator_note": "Second step on the main (8.49) line, labelled 'i' (inductive/charge-site cleavage): the oxocarbenium O+-C bond of the distonic ion breaks heterolytically with both electrons migrating to the charge-bearing heteroatom, expelling neutral CH2=Y (formaldehyde for Y=O) and leaving a distonic carbenium radical cation (+CH2-CH2-CH2., m/z 42 for Y=O). Book draws 0 electron arcs for this step (only the 'i'-labelled reaction arrow); the single double-barbed arrow encoded here is curator-supplied for balance. DISCLOSED DRAWN INTERMEDIATE/PRODUCT NOT ENCODED: the figure then draws one further arrow closing this open distonic carbenium into a cyclic hydrocarbon OE+. (the half-moon 'D'-shape ring with +.); that terminal product is a delocalised radical cation with no clean localised Kekule structure (2c-1e ring bond) and its ring size/unsaturation is schematic, so it is described here but not encoded as a species."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c3h6_distonic", "species_id": "distonic_carbenium_c3h6", "step_id": "step_inductive_cleavage", "observed_mz": 42.0464, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
